US05905088
(d) Preparation of 5-bromo-2-(3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-3-yl)thiophene
A mixture of tributylamine (2.66 ml, 18.39 mmol), palladium diacetate (53 mg, 0.24 mmol), formic acid (0.205 ml, 5.32 mmol) and 5-bromo-2-[1-(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxymethyl)-vinyl]thiophene (2.57 mg, 4.84 mmol) in acetonitrile (75 ml) was heated at 60° C. for 4 h. The reaction medium was concentrated in a rotary evaporator under vacuum at 40° C. Water and ethyl ether were added. After decantation, the organic phase was washed twice with 20 ml of water, dried over magnesium sulfate and concentrated in a rotary evaporator under vacuum at 40° C.

reactant | tributylamine | 18.39 mmol, 2.66 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | formic acid | 5.32 mmol, 0.205 ml | C(=O)O | CH2O2
reactant | 5-bromo-2-[1-(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxymethyl)-vinyl]thiophene | 4.84 mmol, 2.57 mg | BrC1=CC=C(S1)C(=C)COC1=CC=2C(CCC(C2C=C1I)(C)C)(C)C | C21H24BrIOS
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
catalyst | palladium diacetate | 0.24 mmol, 53 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 5-bromo-2-(3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-3-yl)thiophene | BrC1=CC=C(S1)C1(C2=C(OC1)C=C1C(CCC(C1=C2)(C)C)(C)C)C | C21H25BrOS
